US07989457B2
Step H. 4-[1-(4′-Trifluoromethyl-biphenyl-4-ylmethyl)-propoxy]-benzoic acid methyl ester
1-(4′-Trifluoromethyl-biphenyl-4-yl)-butan-2-ol (0.088 g, 0.30 mmol) and 4-hydroxy-benzoic acid ethyl ester (0.062 g, 0.37 mmol) are dissolved in toluene (2 mL) under an inert atmosphere of nitrogen. 1,1′-(Azodicarbonyl)dipiperidine (0.114 g, 0.45 mmol) is added, followed by tributyl-phosphane (0.1 mL, 0.45 mmol) at 0° C. The reaction is stirred for eighteen hours at room temperature, diluted with ethyl acetate, filtered and concentrated. Column chromatography on silica gel with 0-40% ethyl acetate/hexane gradient gives 0.050 g (0.11 mmol, 38%) of title compound.

reactant | 1-(4′-Trifluoromethyl-biphenyl-4-yl)-butan-2-ol | 0.30 mmol, 0.088 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CC(CC)O)(F)F | C17H17F3O
reactant | 4-hydroxy-benzoic acid ethyl ester | 0.37 mmol, 0.062 g | C(C)OC(C1=CC=C(C=C1)O)=O | C9H10O3
reactant | 1,1′-(Azodicarbonyl)dipiperidine | 0.45 mmol, 0.114 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributyl-phosphane | 0.45 mmol, 0.1 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-[1-(4′-Trifluoromethyl-biphenyl-4-ylmethyl)-propoxy]-benzoic acid methyl ester | 0.11 mmol, 0.050 g, 38% | COC(C1=CC=C(C=C1)OC(CC)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C25H23F3O3
